US04119637
4,5-Dihydro-3,3-diphenyl-4-isopropylaminomethylfuran-2-(3H)one
α,α-Diphenyl-α-(1-isopropyl-3azetidinyl)acetonitrile (142 g.; 0.49 mole) was added to 500 g. of 70% sulfuric acid at 90°-100° C. The temperature was raised to 130° C. for 48 hours. The cooled mixture was poured onto ice and the cold mixture made basic by the addition of solid sodium hydroxide. The basic mixture was extracted with chloroform and the combined chloroform extracts dried over sodium sulfate and concentrated. The residual material was crystallized from an 80% isooctane - 20% isopropyl ether solution. The 4,5-dihydro-3,3-diphenyl-4-isopropylaminomethylfuran-2(3H)one weighed 105 g. (69.3%) and melted at 78°-80° C.

reactant | α,α-Diphenyl-α-(1-isopropyl-3azetidinyl)acetonitrile | 0.49 mole, 142 g | C1(=CC=CC=C1)C(C#N)(C1CN(C1)C(C)C)C1=CC=CC=C1 | C20H22N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4,5-Dihydro-3,3-diphenyl-4-isopropylaminomethylfuran-2-(3H)one | C1(=CC=CC=C1)C1(C(OCC1CNC(C)C)=O)C1=CC=CC=C1 | C20H23NO2
